US09402841B2
Step B: (S)-tert-butyl 2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate
To a crude reaction mixture containing (S)-tert-butyl 2-(((3-cyanoisoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate (0.562 g) was added NMP (2 mL) followed by ethyl hydrazinecarboxylate (0.663 g, 6.36 mmol). The reaction mixture was heated at 175° C. overnight and was subsequently cooled, diluted with EtOAc, and washed with brine. The organic layer was separated, dried over Na2SO4, and concentrated to give the title compound, which was used directly in the next step.

reactant | (S)-tert-butyl 2-(((3-cyanoisoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate | 0.562 g | C(#N)C=1N=C(C2=CC=CC=C2C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C20H23N3O3
reactant | NMP | 2 mL | CN1CCCC1=O | C5H9NO
reactant | ethyl hydrazinecarboxylate | 6.36 mmol, 0.663 g | N(N)C(=O)OCC | C3H8N2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 2-(((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate | O=C1NC(=NN1)C=1N=C(C2=CC=CC=C2C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H25N5O4
